US05283251
To a solution of 4-[1-(3-aminobenzoyl)indol-3-yl]butyric acid hydrochloride (14.5 g) and diisopropylethylamine (22 ml) in dichloromethane (300 ml) was added bis(4-isobutylphenyl)methyl bromide (14.5 g) at room temperature. After stirring for 15 hours, diisopropylethylamine (7 ml) and bis(4-isobutylphenyl)methyl bromide 2.0 g) were added to the mixture. The mixture was stirred for 6 hours at room temperature and acidified by 7% hydrochloric acid (50 ml). The separated organic layer was washed with water and dried over magnesium sulfate. After the solvent was removed in vacuo, the residue was chromatographed on a column of silica gel (200 g) and eluted with chloroform to give a solid of 4-[1-[3-[bis(4-isobutylphenyl)methylamino]benzoyl]indol-3-yl]butyric acid (23.15 g).

reactant | 4-[1-(3-aminobenzoyl)indol-3-yl]butyric acid hydrochloride | 14.5 g | Cl.NC=1C=C(C(=O)N2C=C(C3=CC=CC=C23)CCCC(=O)O)C=CC1
reactant | diisopropylethylamine | 22 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | bis(4-isobutylphenyl)methyl bromide | 14.5 g | C(C(C)C)C1=CC=C(C=C1)C(C1=CC=C(C=C1)CC(C)C)Br | C21H27Br
reactant | diisopropylethylamine | 7 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | bis(4-isobutylphenyl)methyl bromide | 2.0 g | C(C(C)C)C1=CC=C(C=C1)C(C1=CC=C(C=C1)CC(C)C)Br | C21H27Br
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 4-[1-[3-[bis(4-isobutylphenyl)methylamino]benzoyl]indol-3-yl]butyric acid | 23.15 g | C(C(C)C)C1=CC=C(C=C1)C(C1=CC=C(C=C1)CC(C)C)NC=1C=C(C(=O)N2C=C(C3=CC=CC=C23)CCCC(=O)O)C=CC1 | C40H44N2O3
